US08865896B2
Methyl (3-{[[3-(6-amino-2-butoxy-8-oxo-7,8-dihydro-9H-purin-9-yl)propyl](3-morpholin-4-ylpropyl)amino]methyl}phenyl)acetate
To a suspension of 6-amino-2-butoxy-9-{3-[(3-morpholin-4-ylpropyl)amino]propyl}-8-oxo-7,9-dihydro-8H-purine dimaleate (15.00 g, 23.45 mmol) in NMP (54.08 g) was added triethyamine (7.12 g, 70.35 mmol) at 25° C. Then sodium acetoxyborohydride (8.45 g, 39.87 mmol) was added thereto, followed by stirring at 25° C. for 15 minutes. After adding methyl (3-formylphenyl)acetate (6.27 g, 35.18 mol) and stirring at 25° C. for 8 hours, the mixture was cooled to 5° C. and then diluted with cold water (240.00). After adjusting pH to 7 with 10% sodium carbonate solution, a seed crystal was added thereto. After stirring for additional 15 minutes, the mixture was adjusted to pH 8 with 10% sodium carbonate solution and thereto was added water (15 g). After keeping at 5° C. for 1 hour, the resulting white solid was filtered, washed and dried to give the subject compound (12.10 g, 90.6%). The seed crystal used in the above was obtained by the method of the above example 5 without adding a seed crystal as the method of the above Example 5. Purity: 94.81% (HPLC)

reactant | 6-amino-2-butoxy-9-{3-[(3-morpholin-4-ylpropyl)amino]propyl}-8-oxo-7,9-dihydro-8H-purine dimaleate | 23.45 mmol, 15.00 g | C(\C=C/C(=O)O)(=O)O.C(\C=C/C(=O)O)(=O)O.NC1=C2NC(N(C2=NC(=N1)OCCCC)CCCNCCCN1CCOCC1)=O
reactant | triethyamine | 70.35 mmol, 7.12 g | C(C)N(CC)CC | C6H15N
reactant | sodium acetoxyborohydride | 39.87 mmol, 8.45 g | C(C)(=O)O[BH3-].[Na+]
reactant | methyl (3-formylphenyl)acetate | 35.18 mol, 6.27 g | C(=O)C=1C=C(C=CC1)CC(=O)OC | C10H10O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | NMP | 54.08 g | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
solvent | water | 15 g | O | H2O
product | Methyl (3-{[[3-(6-amino-2-butoxy-8-oxo-7,8-dihydro-9H-purin-9-yl)propyl](3-morpholin-4-ylpropyl)amino]methyl}phenyl)acetate | 12.10 g, 90.6% | NC1=C2NC(N(C2=NC(=N1)OCCCC)CCCN(CCCN1CCOCC1)CC=1C=C(C=CC1)CC(=O)OC)=O | C29H43N7O5
